US06403610B1
1 cm3 of 5N aqueous sodium hydroxide solution was added, with stirring and under an inert atmosphere, to a solution of 0.26 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(tert-butylthio)ethyl]piperidine-3-carboxylate in 5 cm3 of methanol. After heating the solution to a temperature in the region of 60° C. and then cooling to room temperature, the reaction mass was evaporated under reduced pressure (2.8 kPa) at a temperature in the region of 60° C. The residue obtained was taken up in 5 cm3 of distilled water and then 5 cm3 of concentrated hydrochloric acid (d=1.18) were added. The mixture was evaporated under reduced pressure (2.8 kPa) at a temperature in the region of 60° C. The residue obtained was taken up in 4 cm3 of a dichloromethane/methanol (90/10 by volume) mixture. The white precipitate obtained was filtered off and washed with 2 times 2 cm3 of this same mixture. The filtrate was concentrated under reduced pressure (2.8 kPa) at a temperature in the region of 40° C. The product obtained was dried under reduced pressure (16 Pa) at a temperature in the region of 60° C. 0.29 g of (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(tert-butylthio)ethyl]piperidine-3-carboxylic acid dihydrochloride was obtained in the form of a solid with a beige color melting with softening in the region of 169° C.

reactant | sodium hydroxide | 5N, 1 cm3 | [OH-].[Na+]
reactant | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(tert-butylthio)ethyl]piperidine-3-carboxylate | 0.26 g | OC(CC[C@H]1[C@H](CN(CC1)CCSC(C)(C)C)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C26H38N2O4S
reactant | hydrochloric acid | 5 cm3 | Cl | ClH
solvent | methanol | 5 cm3 | CO | CH4O
solvent | water | 5 cm3 | O | H2O
solvent | dichloromethane methanol | 4 cm3 | ClCCl.CO
product | (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(tert-butylthio)ethyl]piperidine-3-carboxylic acid dihydrochloride | 0.29 g | Cl.Cl.OC(CC[C@H]1[C@H](CN(CC1)CCSC(C)(C)C)C(=O)O)C1=CC=NC2=CC=C(C=C12)OC | InChI=1S/C25H36N2O4S.2ClH/c1-25(2,3)32-14-13-27-12-10-17(21(16-27)24(29)30)5-8-23(28)19-9-11-26-22-7-6-18(31-4)15-20(19)22;;/h6-7,9,11,15,17,21,23,28H,5,8,10,12-14,16H2,1-4H3,(H,29,30);2*1H/t17-,21+,23?;;/m1../s1
